US04609662
A 1 liter round bottom flask equipped with a magnetic stirring bar and a CaCl2 drying tube was charged with 5.0 g (29.50 mM) 2-amino-6-chloro-purine, 6.8 g (29.50 mM) 2-(chloromethylthio)ethyl benzoate, 4.07 g (29.50 mM) potassium carbonate and 750 ml of anhydrous dimethylformamide. The reaction was stirred at room temperature for 16 hours after which time another 2.0 g (8.7 mM) of 2-(chloromethylthio)ethyl benzoate along with 1.2 g (8.7 mM) potassium carbonate were added and stirring continued for an additional 24 hours at room temperature. The reaction mixture was then filtered through a pad of Celite in a sintered glass funnel and rotary evaporated in vacuo to a viscous yellow oil. The oil was adsorbed on to 20.0 g of Merck silica gel 60 (70-230 mesh) and this preadsorbed phase applied to the top of a column of Merck silica gel 60 (230-400 mesh). Elution of the column using 6:4 ethyl acetate-benzene provided 2-amino-9-(2-benzoyloxyethylthiomethyl)-6-chloro-purine as an off-white solid as a single material by TLC on silica gel 8:2 (ethyl acetate:hexane). 1H NMR, CDCl3 8.0-7.15 δ, 6H, multiplet; 5.1 δ, 4H, broad singlet; 4.5 δ, 2H, triplet 2.9 δ, 2H triplet. This product (0.98 g 2.70 mM) was placed into a 500 ml Parr hydrogenator bottle together with 2.5 g Pd(OH)2 catalyst, 50 ml Et3N and 200 ml of methanol. This was shaken on a Parr hydrogenator under 50 p.s.i. hydrogen for 16 hours at room temperature. TLC of the hydrogenolysis product on silica gel with 8% methanol-ethyl acetate showed only partial reaction. The catalyst was removed by filtration through a pad of Celite in a sintered glass funnel, 2.0 g of fresh Pd(OH)2 catalyst and 7.0 ml triethylamine were added and the reaction mixture again shaken under 50 p.s.i. hydrogen for 20 hours. At this point t.l.c. showed the reaction to be complete, the catalyst was removed as before and the methanol rotary evaporated in vacuo to give a clear glass, which was taken up into 100 ml of 1:1 methanol-water containing 20% methylamine. The resulting solution was stirred at room temperature for 4 hours and rotary evaporated in vacuo to give an amorphous solid. The solid was adsorbed on to 10.0 g of 70-230 mesh Merck silica gel 60 and this preadsorbed phase applied to the top of a column of 230-400 mesh Merck silica gel 60. Elution of the column using 10% methanol in ethyl acetate provided a solid that crystallized from ethyl acetate-hexane to give the title compound in the form of tiny needles, mp. 122°-124° C., t.l.c.: 1 spot on silica gel with 15% methanol:thyl acetate 1H NMR dmso-d6 8.59 δ, 1singlet; 8.15 δ, 1H singlet; 6.56 δ, 2H broad singlet; 5.24 δ, 2H singlet; 4.83 δ, 1H triplet; 3.49 δ, 2H multiplet; 2.69 δ, 2H multiplet; Anal.: Theory C: 42.65 H 4.92, N: 31.09. Found C: 42.70, H: 4.94, N: 31.04.

reactant | 2-amino-6-chloro-purine | 29.50 mM, 5.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | 2-(chloromethylthio)ethyl benzoate | 29.50 mM, 6.8 g | C(C1=CC=CC=C1)(=O)OCCSCCl | C10H11ClO2S
reactant | potassium carbonate | 29.50 mM, 4.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethylthio)ethyl benzoate | 8.7 mM, 2.0 g | C(C1=CC=CC=C1)(=O)OCCSCCl | C10H11ClO2S
reactant | potassium carbonate | 8.7 mM, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | 2-amino-9-(2-benzoyloxyethylthiomethyl)-6-chloro-purine | NC1=NC(=C2N=CN(C2=N1)CSCCOC(C1=CC=CC=C1)=O)Cl | C15H14ClN5O2S
